US06730695B2
A) 5-Chloro-3-(2,3-difluorophenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one
A solution of 5.6 g of 1,2-difluorobenzene in 50 ml of ether is cooled to −10° C., 31 ml of a 1.6 M solution of n-butyllithium in hexane are added dropwise and the mixture is stirred at −10° C. for 2 hours. The reaction mixture is cooled to −50° C., a solution of 4 g of 5-chloro-1H-indole-2,3-dione in 40 ml of THF is added and the resulting mixture is stirred for 12 hours, while allowing the temperature to return to RT. The reaction mixture is poured into a concentrated HCl/ice/water mixture, the resulting mixture is extracted with EtOAc, the organic phase is washed with 1N NaOH solution, with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. 2.8 g of the expected product are obtained after crystallization from iso-ether; m.p.=248° C.

reactant | 1,2-difluorobenzene | 5.6 g | FC1=C(C=CC=C1)F | C6H4F2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-chloro-1H-indole-2,3-dione | 4 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 5-Chloro-3-(2,3-difluorophenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | 2.8 g | ClC=1C=C2C(C(NC2=CC1)=O)(O)C1=C(C(=CC=C1)F)F | C14H8ClF2NO2
